US08557805B2
2-[2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]-N-methylacetamide
To a mixed solution of methylamine hydrochloride (120 mg), triethylamine (0.24 mL) and N,N-dimethylformamide (20 mL) were added [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (500 mg), 1-hydroxybenzotriazole (230 mg), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (330 mg) under ice-cooling, and the mixture was stirred from under ice-cooling to room temperature for 2 days. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:methanol=100:0 to 85:15, volume ratio), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (436 mg, yield 85%) as colorless crystals.

reactant | methylamine hydrochloride | 120 mg | Cl.CN
reactant | [2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 500 mg | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC=1C=NC(=CC1)S(=O)(=O)C | C20H19N3O5S2
reactant | 1-hydroxybenzotriazole | 230 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 330 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.24 mL | C(C)N(CC)CC | C6H15N
product | 2-[2-(7-Methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]-N-methylacetamide | 436 mg, yield 85% | CC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)NC)OC=1C=NC(=CC1)S(=O)(=O)C | C21H22N4O4S2
